US08470841B2
36d N-{3-[4-(6-Benzyloxypyridin-3-yloxy)phenyl]-1-methylprop-2-ynyl}acetamide
3-[4-(6-Benzyloxypyridin-3-yloxy)phenyl]-1-methylprop-2-ynylamine (705 mg, 6.97 mmol) was reacted with acetic anhydride in analogy to example 2a. Yield: 370 mg (41%), M+H+: 387.42:

reactant | 3-[4-(6-Benzyloxypyridin-3-yloxy)phenyl]-1-methylprop-2-ynylamine | 6.97 mmol, 705 mg | C(C1=CC=CC=C1)OC1=CC=C(C=N1)OC1=CC=C(C=C1)C#CC(C)N | C22H20N2O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-{3-[4-(6-Benzyloxypyridin-3-yloxy)phenyl]-1-methylprop-2-ynyl}acetamide | C(C1=CC=CC=C1)OC1=CC=C(C=N1)OC1=CC=C(C=C1)C#CC(C)NC(C)=O | C24H22N2O3
